US08648074B2
(7S,8aR)-2-{[3-(trifluoromethyl)phenyl]sulfonyl}octahydropyrrolo[1,2-a]-pyrazin-7-ol
To (7S,8aR)-2-benzyloctahydropyrrolo[1,2-a]pyrazin-7-ol (Example 17D, 5 g, 21.52 mmol) and solvent 2,2,2-trifluoroethanol (50 mL) were added to 20% palladium hydroxide on carbon, wet (0.500 g) in a pressure bottle. The mixture was stirred at 50° C. for 16 hours under 30 psi of hydrogen. The mixture was filtered through a nylon membrane to give a crude (7S,8aR)-octahydropyrrolo[1,2-a]pyrazin-7-ol. To a solution of the above crude (7S,8aR)-octahydropyrrolo[1,2-a]pyrazin-7-ol (1.0 g, 7 mmol) and triethylamine (1.13 g, 11.2 mmol) in dichloromethane (40 mL) was slowly added a solution of 3-(trifluoromethyl)benzene-1-sulfonyl chloride (1.712 g, 7 mmol) in dichloromethane (2 mL). The solution was stirred at room temperature for 4 hours. The solution was concentrated, diluted with ethyl acetate (100 mL), washed with water (20 mL), dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (dichloromethane/methanol=10:1) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43-1.58 (m, 2H), 1.97 (m, 2H), 2.10-2.35 (m, 3H), 2.90 (m, 1H), 3.20 (m, 1H), 3.62 (m, 1H), 3.77 (m, 1H), 4.14 (m, 1H), 4.80 (m, 1H), 7.92 (m, 2H), 8.10 (m, 2H); MS (ESI) m/z 351 (M+H)+.

reactant | (7S,8aR)-octahydropyrrolo[1,2-a]pyrazin-7-ol | 7 mmol, 1.0 g | C1[C@@H]2N(CCN1)C[C@H](C2)O | C7H14N2O
reactant | triethylamine | 11.2 mmol, 1.13 g | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzene-1-sulfonyl chloride | 7 mmol, 1.712 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (7S,8aR)-2-{[3-(trifluoromethyl)phenyl]sulfonyl}octahydropyrrolo[1,2-a]-pyrazin-7-ol | FC(C=1C=C(C=CC1)S(=O)(=O)N1C[C@@H]2N(CC1)C[C@H](C2)O)(F)F | C14H17F3N2O3S
